US05447954
±(3R*,5S*) 5-{6-[2,4-Bis(trifluoromethyl)phenyl]hexyl}-3-carboxymethyl-3-hydroxytetrahydrofuran-2-one
Following the procedures described in examples 1 (g) and 2, substituting ±methyl 11-[2,4-Bis (trifluoromethyl)phenyl]-3-hydroxy-3-methoxycarbonyl-5-oxo-undecanoate for ± methyl 11(2,4-dichlorophenyl )-3-hydroxy-3-methoxycarbonyl-5-oxo-undecanoate, gave the title compound as a solid, m.p. 70°-73° C.

reactant | methyl 11-[2,4-Bis (trifluoromethyl)phenyl]-3-hydroxy-3-methoxycarbonyl-5-oxo-undecanoate | FC(C1=C(C=CC(=C1)C(F)(F)F)CCCCCCC(CC(CC(=O)OC)(C(=O)OC)O)=O)(F)F | C22H26F6O6
reactant | methyl 11(2,4-dichlorophenyl )-3-hydroxy-3-methoxycarbonyl-5-oxo-undecanoate | ClC1=C(C=CC(=C1)Cl)CCCCCCC(CC(CC(=O)OC)(C(=O)OC)O)=O | C20H26Cl2O6
product | (3R*,5S*) 5-{6-[2,4-Bis(trifluoromethyl)phenyl]hexyl}-3-carboxymethyl-3-hydroxytetrahydrofuran-2-one | FC(C1=C(C=CC(=C1)C(F)(F)F)CCCCCC[C@H]1C[C@@](C(O1)=O)(O)CC(=O)O)(F)F | C20H22F6O5
